US07524847B2
7-(2-Butynyl)-2,6-dichloro-7,9-dihydropurin-8-one
7-(2-Butynyl)-2,6,8-trichloro-7H-purine (1.0 g) was dissolved in dimethylsulfoxide (20 mL), and then sodium acetate (595 mg) and sodium bicarbonate (366 mg) were added to the mixture. This reaction solution was stirred at room temperature for 12 hours, and then 1 N of aqueous hydrochloric acid solution (5.0 mL) and 80 mL of water were added. This reaction solution was stirred at room temperature for one hour, and then a white precipitate was collected by filtration. The white solid obtained was washed with water and t-butyl methyl ether to give the title compound (800 mg).

reactant | 7-(2-Butynyl)-2,6,8-trichloro-7H-purine | 1.0 g | C(C#CC)N1C(=NC2=NC(=NC(=C12)Cl)Cl)Cl | C9H5Cl3N4
reactant | sodium acetate | 595 mg | C(C)(=O)[O-].[Na+]
reactant | sodium bicarbonate | 366 mg | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1 N, 5.0 mL | Cl | ClH
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | water | 80 mL | O | H2O
product | 7-(2-Butynyl)-2,6-dichloro-7,9-dihydropurin-8-one | 800 mg | C(C#CC)N1C(NC2=NC(=NC(=C12)Cl)Cl)=O | C9H6Cl2N4O
